US06544985B2
(2-Amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (4-chloro-5-isopropylamino-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example C37) (3.75 g, 11.3 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a brown solid (2.90 g, 86%).

reactant | (4-chloro-5-isopropylamino-2-nitro-phenyl)-carbamic acid tert-butyl ester | 11.3 mmol, 3.75 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)[N+](=O)[O-])=O | C14H20ClN3O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-4-chloro-5-isopropylamino-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NC(C)C)Cl)N)=O | C14H22ClN3O2
